US07351339B2
A 1 l flask equipped with a thermostated jacket, mechanical stirring, thermometer and reflux condenser was initially charged under an argon atmosphere with a mixture of 3.4 mol of PCl3 and 1.2 mol of AlCl3 (98% purity) at 73° C. 0.8 mol of fluorobenzene was then added within 30 min, while a weak argon stream was passed through the reaction flask. The reaction mixture was stirred for 3 hours and cooled to 60° C., and 1.25 mol of pyridine were added slowly within 45 min. The reaction was exothermic and mist formed. Stirring was then continued at 60° C. for a further 30 min. An irregular, large-lumped solid precipitated which could not be removed via a suction filter, but only by filtration. The residue which was filtered off was washed with petroleum ether. The filtrate and washing liquid were combined and distilled to obtain 73.3 g of p-fluorophenyldichlorophosphine in a yield of 47% of theory.

reactant | PCl3 | 3.4 mol | P(Cl)(Cl)Cl | Cl3P
reactant | AlCl3 | 1.2 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 0.8 mol | FC1=CC=CC=C1 | C6H5F
reactant | pyridine | 1.25 mol | N1=CC=CC=C1 | C5H5N
product | p-fluorophenyldichlorophosphine | 73.3 g, yield of 47% | FC1=CC=C(C=C1)P(Cl)Cl | C6H4Cl2FP
